US07015246B2
4.8 g (20.1 mmol) of 4-(Chloromethyl)-7-hydroxy-6,8-dimethyl-2H-chromen-2-one are heated at reflux for 3 h in 11 of 0.2 N NaOH. The reaction solution is adjusted to pH 3 with HCl and extracted 4 times with ethyl acetate. The combined organic phases are washed with a saturated solution of NaCl, dried over sodium sulfate and concentrated. 3.3 g (75%) of 2-(6-hydroxy-5,7-dimethyl-1-benzofuran-3-yl) acetic acid are obtained.

reactant | 4-(Chloromethyl)-7-hydroxy-6,8-dimethyl-2H-chromen-2-one | 20.1 mmol, 4.8 g | ClCC1=CC(OC2=C(C(=C(C=C12)C)O)C)=O | C12H11ClO3
reactant | NaOH | 0.2 N | [OH-].[Na+]
reactant | HCl | Cl | ClH
product | 2-(6-hydroxy-5,7-dimethyl-1-benzofuran-3-yl) acetic acid | 3.3 g, 75% | OC1=C(C2=C(C(=CO2)CC(=O)O)C=C1C)C | C12H12O4
